US05952368
N-{3-Bromo-4-[5-(4-methylbenzoyl)-1-methyl-1H-pyrrol-2-ylmethyl]phenyl}methane-sulfonamide (320 mg, 0.69 mmol) was dissolved in DMF. CuCN (120 mg, 1.38 mmol) was added and the suspension was refluxed for 4 h. The mixture was cooled to room temperature, and NaCN (2.0 g in 10 ml of water) was added. After 0.5 h the mixture was extracted with ethyl acetate and the extracts were washed with water, and brine, and dried over sodium sulfate. The solvent was removed in vacuo and the residue was purified by preparatory TLC (hexane-ethyl acetate) to give N-{3-cyano-4-[5-(4-methylbenzoyl)-1-methyl-1H-pyrrol-2-yl-methyl]phenyl}methanesulfonamide (190 mg, 67%) as a solid, mp 171-172° C.

reactant | N-{3-Bromo-4-[5-(4-methylbenzoyl)-1-methyl-1H-pyrrol-2-ylmethyl]phenyl}methane-sulfonamide | 0.69 mmol, 320 mg | BrC=1C=C(C=CC1CC=1N(C(=CC1)C(C1=CC=C(C=C1)C)=O)C)NS(=O)(=O)C | C21H21BrN2O3S
reactant | CuCN | 1.38 mmol, 120 mg | C(#N)[Cu]
reactant | NaCN | 10 ml, 2.0 g | [C-]#N.[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
product | N-{3-cyano-4-[5-(4-methylbenzoyl)-1-methyl-1H-pyrrol-2-yl-methyl]phenyl}methanesulfonamide | 190 mg, 67% | C(#N)C=1C=C(C=CC1CC=1N(C(=CC1)C(C1=CC=C(C=C1)C)=O)C)NS(=O)(=O)C | C22H21N3O3S
